US05858995
A solution of 3-formyl-2-methyl-7-nitrobenzo[b]furan (200 mg) and (carboethoxymethylene)triphenylphosphorane (434 mg) in dioxane (3 ml) was stirred at ambient temperature for 1 hour. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography on silica gel. The obtained oil was crystallized from diisopropyl ether to give 3-(2-ethoxycarbonylethenyl)-2-methyl-7-nitrobenzo[b]furan (226 mg).

reactant | 3-formyl-2-methyl-7-nitrobenzo[b]furan | 200 mg | C(=O)C=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H7NO4
reactant | (carboethoxymethylene)triphenylphosphorane | 434 mg | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 3-(2-ethoxycarbonylethenyl)-2-methyl-7-nitrobenzo[b]furan | 226 mg | C(C)OC(=O)C=CC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C14H13NO5
